US04730053
S-(2-phenylcarbamoyl-phenylselenyl)-mercaptosalicylic acid
Prepared similar to example 1 from 5 g (18,2 mmol) of 2-phenyl-1,2-benzisoselenazole-3(2H)-one and 2,8 g (18,2 mmol) of mercaptosalicylic acid.

reactant | 2-phenyl-1,2-benzisoselenazole-3(2H)-one | 18,2 mmol, 5 g | C1(=CC=CC=C1)N1[Se]C2=C(C1=O)C=CC=C2 | C13H9NOSe
reactant | mercaptosalicylic acid | 18,2 mmol, 2,8 g | SOC=1C(C(=O)O)=CC=CC1 | C7H6O3S
product | S-(2-phenylcarbamoyl-phenylselenyl)-mercaptosalicylic acid | C1(=CC=CC=C1)NC(=O)C1=C(C=CC=C1)[Se]SOC=1C(C(=O)O)=CC=CC1 | C20H15NO4SSe
